US07662771B2
5-[4-(2-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid
Add a solution of LiOH.H2O (2.62 g, 62.5 mmol) in water (60 mL) to a rapidly stirred solution of 5-[4-(2-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid methyl ester (3.82 g, 12.5 mmol) in dioxane (120 mL), stir at room temperature. After 1 hour, acidify to pH 1 with 5N HCl solution and concentrate to remove the majority of the dioxane. Partition residue between 20% i-PrOH/CHCl3 and 1N HCl solution, separate layers. Backextract from aqueous layer with 20% i-PrOH/CHCl3 and dry combined organic layers over MgSO4, and concentrate to get 3 grams of a pink oil. Recrystallize from EtOAc to afford the title compound (2.52 g, 69%). MS (IS) 292 (M+1)+.

reactant | LiOH.H2O | 62.5 mmol, 2.62 g | O[Li].O
reactant | 5-[4-(2-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid methyl ester | 12.5 mmol, 3.82 g | COC(CCCCC=1SC=C(N1)C1=C(C=CC=C1)OC)=O | C16H19NO3S
reactant | HCl | 5N | Cl | ClH
solvent | water | 60 mL | O | H2O
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 5-[4-(2-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid | 3 grams | COC1=C(C=CC=C1)C=1N=C(SC1)CCCCC(=O)O | C15H17NO3S
